US08455475B2
2,2′-(1-Benzylazepane-4,4-diyl)diethanol
Diethyl 2,2′-(1-benzylazepane-4,4-diyl)diacetate (1.0 g, 2.77 mmol, 1.0 eq.) in THF (10 ml) was added to a suspension of LAH (315 mg, 8.3 mmol, 3.0 eq.) in THF (40 ml) at 0° C. and the mixture was stirred at RT for 20 h. The reaction mixture was then quenched with a mixture of H2O-THF (1:10, 4 ml), stirred for 15 min and filtered through celite. The filtrate was concentrated under reduced pressure and the crude product thus obtained was used in the next step without further purification.

reactant | Diethyl 2,2′-(1-benzylazepane-4,4-diyl)diacetate | 2.77 mmol, 1.0 g, 1.0 eq. | C(C1=CC=CC=C1)N1CCC(CCC1)(CC(=O)OCC)CC(=O)OCC | C21H31NO4
reactant | LAH | 8.3 mmol, 315 mg, 3.0 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2,2′-(1-Benzylazepane-4,4-diyl)diethanol | C(C1=CC=CC=C1)N1CCC(CCC1)(CCO)CCO | C17H27NO2
